US07105567B2
By the reaction and treatment in the same manner as in Example 2 using [(2,4-dimethoxyphenyl)methyl](4-isopropylphenyl)amine (1.0 g) and 2,6-diisopropylphenyl isocyanate (1.2 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(2,4-dimethoxyphenyl)methyl]-N-(4-isopropylphenyl)urea (1.6 g) was obtained.

reactant | [(2,4-dimethoxyphenyl)methyl](4-isopropylphenyl)amine | 1.0 g | COC1=C(C=CC(=C1)OC)CNC1=CC=C(C=C1)C(C)C | C18H23NO2
reactant | 2,6-diisopropylphenyl isocyanate | 1.2 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(2,4-dimethoxyphenyl)methyl]-N-(4-isopropylphenyl)urea | 1.6 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)C(C)C)CC1=C(C=C(C=C1)OC)OC)=O | C31H40N2O3
